US07138408B2
9-(2,4-Difluorobenzyl)-N-hydroxy-9H-β-carboline-3-carboxamide
To a stirred solution of ethyl 9H-β-carboline-3-carboxylate (370 mg, 1.54 mmol) in DMF (5 mL) under a nitrogen atmosphere was added NaH (61.6 mg, 60% in mineral oil, 1.54 mmol) portionwise, followed by 2,4-difluorobenzyl bromide (198 μL, 1.54 mmol). Stirring was continued for 48 hours at ambient temperature, water (100 mL) was then added to the mixture. The precipitate was filtered, washed with water and dried to give a solid that was dissolved in methanol (35 mL). To the resulting solution, H2NOH (30 mL, 50 wt. % solution in H2O, 0.45 mol) was added. The suspension was stirred for 4 days at ambient temperature. The mixture was then filtered, and the solid was recrystallized from methanol to give the title product (0.20 g, 37%). 1H NMR (400 MHz, DMSO-d6): δ 11.46 (1H, s), 9.15–9.22 (2H, m), 9.02 (1H, s), 8.64 (1H, d, J=8 Hz), 7.15–7.96 (6H, m), 6.06 (2H, s). HRMS (M+H)+ found: 354.1062. Calcd for C19H14F2N3O2FCl: 354.1054.

reactant | ethyl 9H-β-carboline-3-carboxylate | 1.54 mmol, 370 mg | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)OCC | C14H12N2O2
reactant | NaH | 1.54 mmol, 61.6 mg | [H-].[Na+]
reactant | 2,4-difluorobenzyl bromide | 1.54 mmol, 198 μL | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
reactant | H2NOH | 0.45 mol, 30 mL | NO | H3NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 35 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 9-(2,4-Difluorobenzyl)-N-hydroxy-9H-β-carboline-3-carboxamide | 0.20 g, 37% | FC1=C(CN2C3=CC=CC=C3C=3C=C(N=CC23)C(=O)NO)C=CC(=C1)F | C19H13F2N3O2
